Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
facial droop, facial numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo right-handed woman with history of 
HTN,
T2DM who presents with three days of headache, a 5 minute 
episode
of R facial numbness and new R facial droop.

Ms. ___ states that she was in her USOH until ___, when she developed a sudden onset headache. The 
headache
is R hemicranium, dull, and mild. The headache worsened on 
___, though has still been ___ severity at its worst. 
She woke up this morning, ___, and noticed that the headache was
still present, but was bothered on awakening by frequent tearing
of her right eye. She then noticed a 5 minute episode of R face
numbness without paresthesiae at approx. 1300. This prompted her
to look in the mirror, where she saw facial asymmetry. She notes
that she hadn't looked in the mirror that morning, and last 
known
time of symmetric face was at approx. ___. 

Ms. ___ then presented to ___, where she
underwent NCHCT and CTA head/neck, which showed a 5x6mm R ICA
aneurysm, calcified. This prompted transfer to ___. 

She also notes that she checked her BP at home yesterday and it
was 180/100. Because of this, when she took her morning
medications today ___, she took 37.5mg HCTZ instead of her 
normal
25mg. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
Chronic Low Back Pain
Graves Disease s/p methimazole therapy
 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission: 

PHYSICAL EXAMINATION
Vitals:  T: 98.1 HR: 72 BP: 167/69 RR: 14 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Tearing
OD. External auditory canal with trace cerumen on right but no
erythema, lesions.  
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with normal grammar and
syntax. No paraphasic errors. Naming intact to low frequency
words. Repetition intact. Comprehension intact to complex,
cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 3->2. EOMI without nystagmus. Facial
sensation intact to light touch. right upper and lower facial
weakness. She is able to close her R eye.   Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to each side. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5                
R  5    ___   ___  5   5    5  5                 

-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
L  2  2    2    2   1                    -   
R  2  2    2    2   1                    -  
Plantar response was extensor on R, flexor on L.

-Sensory: Proprioception intact BUE. Intact to LT, temperature
throughout. Proprioception intact at great toe bilaterally. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

On discharge: unchanged from admission
 
Pertinent Results:
___ 07:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:10AM   TSH-6.6*
___ 08:10AM   TRIGLYCER-202* HDL CHOL-39* CHOL/HDL-4.9 
LDL(CALC)-111
___ 08:10AM   %HbA1c-6.3* eAG-134*

MRI/MRA brain: 
1. No evidence of acute infarction or intracranial hemorrhage. 
2. Abnormal enhancement involving the intracanicular segment of 
the right IAC and geniculate ganglion, possibly related to 
Bell's palsy in the proper clinical setting. 
3. Focus of abnormal enhancement in the right supraclinoid 
ICA/A-comm region, corresponding to aneurysm seen on the recent 
CTA. No evidence of significant flow related enhancement, 
suggesting possibly thrombosed aneurysm. 
4. Otherwise, patency of the intracranial vasculature without 
stenosis, 
occlusion, or other aneurysm. 
5. Patency of the bilateral carotid and vertebral arteries 
without internal carotid artery stenosis by NASCET criteria. 

 
Brief Hospital Course:
Ms. ___ is a pleasant ___ yo right-handed 
woman with history of HTN, T2DM who presents with three days of 
headache, a 5 minute episode of R facial numbness and new R 
facial droop. CTA head/neck at ___ showed 5x6mm R ICA 
aneurysm. On exam, she has a peripheral CN VII palsy, no change 
in sensation to her face. No recent infections, tick bites. No 
cough or history of sarcoid. MRI brain negative for stroke. 
Neurosurgery cleared the pt, and she will follow up with 
neurology as an outpatient. 

She was sent home on 14 days of prednisone 60mg followed by a 5 
day taper of 10mg per day. Also Valtrex ___ BID for 1 week. 
PCP was emailed for hospital follow-up in setting of history of 
DM and HTN and being on steroids. 

 
Medications on Admission:
ASA 81
HCTZ 25mg daily 
metformin 500mg daily 
levothyroxine 44mcg daily (takes half of an 88mcg tablet)
fish oil 1000 mg daily
Citrical+D 2 tab daily
naproxen 220mg daily prn pain
 
Discharge Medications:
1.  Artificial Tear Ointment 1 Appl BOTH EYES QPM 
RX *white petrolatum-mineral oil [Lubricant Eye] 15 %-83 % 1 
application eye every night Refills:*0 
2.  Artificial Tears ___ DROP BOTH EYES QID  
3.  PredniSONE 60 mg PO DAILY Duration: 13 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 1 of 6 tapered doses
RX *prednisone 10 mg ___ tablet(s) by mouth DAILY Disp #*93 
Tablet Refills:*0 
4.  PredniSONE 50 mg PO DAILY Duration: 1 Dose 
Start: After 60 mg DAILY tapered dose 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 2 of 6 tapered doses 
5.  PredniSONE 40 mg PO DAILY Duration: 1 Dose 
Start: After 50 mg DAILY tapered dose 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 3 of 6 tapered doses 
6.  PredniSONE 30 mg PO DAILY Duration: 1 Dose 
Start: After 40 mg DAILY tapered dose 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 4 of 6 tapered doses 
7.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start: After 30 mg DAILY tapered dose 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 5 of 6 tapered doses 
8.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
Start: After 20 mg DAILY tapered dose 
60mg/day for 13 more days. Then down by 10mg each day until 
complete.  
This is dose # 6 of 6 tapered doses 
9.  ValACYclovir 500 mg PO Q12H Duration: 7 Days 
RX *valacyclovir 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
10.  Aspirin 81 mg PO DAILY  
11.  Fish Oil (Omega 3) 1000 mg PO DAILY  
12.  Hydrochlorothiazide 25 mg PO DAILY  
13.  Levothyroxine Sodium 44 mcg PO DAILY  
14.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush  
15.  Naproxen 250 mg PO DAILY:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower motor neuron cranial nerve VII palsy
Right internal carotid artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: peripheral CN VII palsy

 
Discharge Instructions:
Dear ___,

You were admitted because of a facial droop and transient facial 
numbness on the right. You had a CTA of your head that showed an 
aneurysm in your right internal carotid artery. Your MRI of your 
brain did not show a stroke. Your facial droop and facial 
numbness was likely because of a viral infection, though 
sometimes it is difficult to say exactly what the cause of this 
is. You were started on prednisone, which you will take for 2 
weeks and then taper off of. You will also be started on Valtrex 
once you leave the hospital.

For your eye, please use lacrilube and tape your eye shut at 
night. Use artificial tears through the day to keep your cornea 
from being scratched.

Your prednisone taper is as follows:
___: prednisone 60mg in the morning
___: prednisone 50mg 
___: prednisone 40mg
___: prednisone 30mg
___: prednisone 20mg
___: prednisone 10mg
___: off prednisone

Please follow up with neurosurgery as an outpatient for your 
aneurysm. There is nothing to do urgently as an inpatient for 
this.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___